data/pmechdb/original/mc_train_fold0/raw/train.txt
C1=CC=C([CH:11]=[CH:10]1)C#N.O[S+:20](=O)=O>>C1=C[CH:10]([CH+:11]C(=C1)C#N)[S:20](=O)(=O)O 10,11=10,20
C[C:20](C1=C(C=CC=C1)O)([NH:10]CCO)[OH:21].C(CO)N>>C[C:20](=[NH+:10]CCO)C1=C(C=CC=C1)O.[OH-:21].C(CO)N 10=20;20,21=21
[H:20][C:21]1(C=CC=C([CH+:22]1)[N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22]C(=C1)[N+](=O)[O-])[N+](=O)[O-] 10=20;20,21=21,22
C(C[O-:10])CO[AlH3-].[AlH3:20]>>C(CO[AlH3-])C[O:10][AlH3-:20] 10=20,
C[CH+:20]C.CC(=O)C1=C2C=C[CH:11]=[CH:10]C2=CC=C1>>C[CH:20](C)[CH:10]1[CH+:11]C=CC2=C(C=CC=C12)C(=O)C 10,11=10,20
CC(=O)CC[C:20](C)([NH:10]C1=CC(=CC=C1)[N+](=O)[O-])[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C[C:20](=[NH+:10]C1=CC(=CC=C1)[N+](=O)[O-])CCC(=O)C.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[CH2:20]=[CH:21][CH:22]=[O:23].[C-:10]#N>>[CH2:20]([CH:21]=[CH:22][O-:23])[C:10]#N 10=20;22,23=23;20,21=21,22
[H:20][C:21]1([CH:22]=[C:23]2CCCC[C:24]2=[N+:25]1C)C(N(C)C)Cl.[O-:10]P(=O)(Cl)Cl>>[H:20][O:10]P(=O)(Cl)Cl.C[N:25]1[C:24]2=[C:23](CCCC2)[CH:22]=[C:21]1C(N(C)C)Cl 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][CH:21](CC=O)[C:22](=[O:23])C.[OH-:10]>>[H:20][OH:10].C[C:22](=[CH:21]CC=O)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O+:21](C1CCC2(C3CCC4(C(C3CC=C2C1)CCC4=O)C)O)[Al-](OC(C)C)(OC(C)C)OC(C)C.C[N:10]1CCC(=O)CC1>>[H:20][N+:10]1(CCC(=O)CC1)C.CC(C)O[Al-]([O:21]C1CCC2(C3CCC4(C(C3CC=C2C1)CCC4=O)C)O)(OC(C)C)OC(C)C 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])C1=CC=CC=C1.[OH-:10].C1=CC=C(C=C1)C=O.[Na+]>>[H:20][OH:10].[CH2:21]=[C:22](C1=CC=CC=C1)[O-:23].C1=CC=C(C=C1)C=O.[Na+] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C.C1C(=[O:10])C2=C(N1)C=CC=C2>>[H:20][O+:10]=C1CNC2=C1C=CC=C2.CC(=O)[O-:21] 10=20;20,21=21
[H:10][AlH2-:11][O+:21]=[CH:20]C12CCCC13CCCC3C=CC2.[Li+].[Br-]>>[H:10][CH:20](C12CCCC13CCCC3C=CC2)[O:21][AlH2:11].[Li+].[Br-] 10,11=10,20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)N(C(C[CH+]C[Si:20](C)(C)C)C2=CC(=CC=C2)Cl)[Fe-](Cl)(Cl)Cl.[Cl-:10]>>CC1=CC=C(C=C1)S(=O)(=O)N(C(C[CH+]C[Si-:20](C)(C)(C)[Cl:10])C2=CC(=CC=C2)Cl)[Fe-](Cl)(Cl)Cl 10=20,
[H:20][OH:21].CCC(C)C(C)(CC)[O-:10]>>[H:20][O:10]C(C)(CC)C(C)CC.[OH-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1=CC(=CC(=C1)C=[O:10])Cl.C1=CC=CC=C1.C(CO)O>>[H:20][O+:10]=CC1=CC=CC(=C1)Cl.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1=CC=CC=C1.C(CO)O 10=20;20,21=21
[H:20][O+:21](C)S(=O)(=O)C.C[N:10](C)C>>[H:20][N+:10](C)(C)C.C[O:21]S(=O)(=O)C 10=20;20,21=21
[H:10][CH2:11][CH:12](C)[Mg-:13]([O+:21]=[C:20](C(C)C)C(C)C)Cl>>[H:10][C:20](C(C)C)(C(C)C)[O:21][Mg:13]Cl.C[CH:12]=[CH2:11] 10,11=10,20;20,21=21;12,13=11,12
COC(=O)[CH-:10]C(=O)O.C1CC[N+:21](=[CH:20]CC2=CC=CC=C2)CC1.CC(=O)O.O>>COC(=O)[CH:10]([CH:20](CC1=CC=CC=C1)[N:21]2CCCCC2)C(=O)O.CC(=O)O.O 10=20;20,21=21
[H:20][OH:21].[B-]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)(O)[O:10]C(CC=C)C2(COC(OC2)(C)C)C.[Na+]>>[H:20][O+:10]([B-]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)O)C(CC=C)C2(COC(OC2)(C)C)C.[OH-:21].[Na+] 10=20;20,21=21
[H:20][OH2+:21].CC(C)(CC1=CC=NC=C1)[O-:10]>>[H:20][O:10]C(C)(C)CC1=CC=NC=C1.[OH2:21] 10=20;20,21=21
C1=CC=C(C=C1)C(=O)[CH:20]([C:10](C2=CC=CC=C2)([C:11](=O)[O-:12])O)[Br:21].CCCC[N+](CCCC)(CCCC)CCCC>>C1=CC=C(C=C1)[C:10](=[CH:20]C(=O)C2=CC=CC=C2)O.[Br-:21].[C:11](=O)=[O:12].CCCC[N+](CCCC)(CCCC)CCCC 10,11=10,20;20,21=21;12=11
CC(C(C1=CC=CC=C1)O)[C:20]([N:21]2C(COC2=O)CC3=CC=CC=C3)([O-:10])OO.[Li+].O>>CC(C(C1=CC=CC=C1)O)[C:20](=[O:10])OO.C1C([N-:21]C(=O)O1)CC2=CC=CC=C2.[Li+].O 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])NCC.[OH-:10]>>[H:20][OH:10].CCN[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21][CH+:22]C.[OH-:10]>>[H:20][OH:10].C[CH:22]=[O:21] 10=20;20,21=21,22
[H:20][O+:21](CC)C(C)(CCC(=O)OCC)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCOC(=O)CCC(C)(O)[O:21]CC 10=20;20,21=21
[H:20][O+:21](CCC(C)OS(=O)(=O)C1=CC=C(C=C1)C)[Si-](C)(C)(C)Cl.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CC1=CC=C(C=C1)S(=O)(=O)OC(C)CC[O:21][Si-](C)(C)(C)Cl 10=20;20,21=21
[H:20][C:21](=[N:22][O:23]C(=O)C)C(CO)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)[O-:23].C(C([C:21]#[N:22])O)O 10=20;22,23=23;20,21=21,22
[H:20][Cl:21].CC1CCCC([CH:10]=[C:11]1C)C2=CC=CC=C2>>[H:20][CH:10]1C(CCCC([C+:11]1C)C)C2=CC=CC=C2.[Cl-:21] 10,11=10,20;20,21=21
C[NH:10][C:20]([OH2+:21])(O)OC>>C[NH+:10]=[C:20](O)OC.[OH2:21] 10=20;20,21=21
[H:20][O+:21]=C1CCC2CC1(NC3=C2C=CC=C3)C4=C(C=CC=C4)Br.C(=O)[O-:10]>>[H:20][O:10]C=O.C1CC(=[O:21])C2(CC1C3=C(N2)C=CC=C3)C4=C(C=CC=C4)Br 10=20;20,21=21
[H:20][NH:21][C:22](=[O+:23][Si-](C)(C)(C)Cl)C.C=[O:10]>>[H:20][O+:10]=C.C[C:22](=[NH:21])[O:23][Si-](C)(C)(C)Cl 10=20;22,23=23;20,21=21,22
[H:20][OH:21].[Li][O:10]C(C1=CC=CC=C1)C(C)N(C)C(=O)C(C)CC(C)C(COCC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C.[Li][NH+](C(C)C)C(C)C.CC(C)NC(C)C.[I-]>>[H:20][O+:10]([Li])C(C1=CC=CC=C1)C(C)N(C)C(=O)C(C)CC(C)C(COCC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C.[OH-:21].[Li][NH+](C(C)C)C(C)C.CC(C)NC(C)C.[I-] 10=20;20,21=21
C[CH+:20]C.[CH:11]1=[CH:10]C2=CC=C(C=C2C=C1)C#N>>C[CH:20](C)[CH:10]1[CH+:11]C=CC2=CC(=CC=C12)C#N 10,11=10,20
CCC=C[CH+:20]C.[Br-:10]>>CCC=C[CH:20](C)[Br:10] 10=20,
